US05344834
4-[1-(1-Imidazolyl)-3-oxo-1-butenyl]-benzonitrile
By stirring 3.02 g of 4-cyanobenzaldehyde and 7.32 g of acetonylidene-triphenylphosphorane in 50 ml of dichloromethane and then recrystallizing from isopropanol, 3.15 g (80%) of 4-(3-oxobutenyl)-benzonitrile is obtained. 1.71 g of it is mixed in 20 ml of dichloromethane with 20 ml of a 0.5 M solution of bromine in dichloromethane. After decolorization, the solvent is drawn off in a vacuum. The remaining oil is refluxed with 0.95 g of imidazole and 7 ml of triethylamine in 40 ml of toluene for 2 hours. A precipitate is filtered off, the filtrate is distributed in ethyl acetate-2M hydrochloric acid, the hydrochloric acid phase is alkalized with potassium carbonate and extracted with ethyl acetate. 1.2 g of a crude product is obtained, which, after recrystallization from isopropanol, yields the Z-isomer with mp. 131°-135° C. After chromatography of the mother liquor on silica gel (eluant ethyl acetate), the E-isomer is obtained from ethyl acetate/ether as crystals of mp: 123°-126° C.

reactant | bromine | BrBr | Br2
reactant | imidazole | 0.95 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate ether | C(C)(=O)OCC.CCOCC
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[1-(1-Imidazolyl)-3-oxo-1-butenyl]-benzonitrile | N1(C=NC=C1)C(=CC(C)=O)C1=CC=C(C#N)C=C1 | C14H11N3O
